data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20]([OH+:21]C)(OC)[O:10]C.[Cl-]>>C[C:20](=[O+:10]C)OC.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][OH+:21]C.CC(=[NH:10])O[Si-](C)(C)(C)Cl>>[H:20][NH+:10]=C(C)O[Si-](C)(C)(C)Cl.C[OH:21] 10=20;20,21=21
[H:20][NH+:21](CCC1=C(C=C2C(=C1)OCO2)I)S(=O)(=O)C3=CC=C(C=C3)C.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=CC=C(C=C1)S(=O)(=O)[NH:21]CCC2=C(C=C3C(=C2)OCO3)I.[Cl-] 10=20;20,21=21
CO[C:20](=[O:21])C1(C(O1)C(=O)C2=CC=CC=C2)C3=CC=CC=C3.[OH:10][K]>>CO[C:20](C1(C(O1)C(=O)C2=CC=CC=C2)C3=CC=CC=C3)([O-:21])[OH+:10][K] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.C1=CC=C(C=C1)C(=O)CC(C(=O)C2=CC=CC=C2)C(=[O:10])C3=CC=CC=C3>>[H:20][O+:10]=C(C1=CC=CC=C1)C(CC(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCC(C1=C(OC(OC1=O)(C)C)[O-])[N:10](C)CC(=O)O>>[H:20][N+:10](C)(CC(=O)O)C(CC)C1=C(OC(OC1=O)(C)C)[O-].CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C.CO[P:10](Br)Br>>[H:20][P+:10](OC)(Br)Br.C[OH:21] 10=20;20,21=21
[H:20][C:21](Br)(Br)Br.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.[C-:21](Br)(Br)Br 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C1=C(C=CC=C1)F)C(C)(C2=C(C=CC=C2)F)O.CC[O-:10]>>[H:20][O:10]CC.CC([CH:21]=[C:22](C1=C(C=CC=C1)F)[O-:23])(C2=C(C=CC=C2)F)O 10=20;22,23=23;20,21=21,22
CC12CCC(=O)C=C1CCC3C2CCC4(C3CC(CC(=O)[C:20]4=[O:21])[O-:10])C>>CC12CCC(=O)C=C1CCC3C2CCC4(C3CC5CC(=O)[C:20]4([O-:21])[O:10]5)C 10=20;20,21=21
C[NH+:21]=[CH2:20].[Cl-:10]>>C[NH:21][CH2:20][Cl:10] 10=20;20,21=21
C[C:11]1(CCCC2=CC=CC=C2[C:10]1=[N:20][OH2+:21])C.OP(=O)(O)OP(=O)(O)[O-]>>C[C+:11](C)CCCC1=CC=CC=C1[C:10]#[N:20].[OH2:21].OP(=O)(O)OP(=O)(O)[O-] 10,11=10,20;20,21=21
CC(=O)ON1C2(CCC1(CN=[C+:20]C2)C)C.[OH2:10].CCN(CC)CC.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C>>CC(=O)ON1C2(CCC1(CN=[C:20](C2)[OH2+:10])C)C.CCN(CC)CC.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C 10=20,
[H:10][AlH3-:11].C1=CC(=C(C=C1)[Mg]Br)[CH:20]=[O:21]>>[H:10][CH:20](C1=C(C=CC=C1)[Mg]Br)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC1(C2CC1C3=C(C2)NC(C(C3)[N+]4=CC=CC=C4)(C5=C(C=CC=C5)F)[OH:10])C.O.[I-]>>[H:20][OH+:10]C1(C(CC2=C(N1)CC3CC2C3(C)C)[N+]4=CC=CC=C4)C5=C(C=CC=C5)F.CC(=O)[O-:21].O.[I-] 10=20;20,21=21
C[Si-:10](C)(C)(OS(=O)(=O)C)[Br:11]>>C[Si:10](C)(C)OS(=O)(=O)C.[Br-:11] 10,11=11
[H:20][I:21].CC(=[O:10])OC>>[H:20][O+:10]=C(C)OC.[I-:21] 10=20;20,21=21
[H:20][OH2+:21].C1CC(C(=O)C1)C(C2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(C1CCCC1=O)C2=CC=CC=C2.[OH2:21] 10=20;20,21=21
CCC(=O)N[C:11]1=[CH:10]C=CC=C1.C[C+:20]=O>>CCC(=O)N[C+:11]1C=CC=C[CH:10]1[C:20](=O)C 10,11=10,20
CC(=CC1C(C1(C)C)C(=O)[O-:10])C.[K+:20].CS(=O)(=O)[O-].O>>CC(=CC1C(C1(C)C)C(=O)[O:10][K:20])C.CS(=O)(=O)[O-].O 10=20,
CCC(C)C(C(=O)NC1CCCCC1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NC1CCCCC1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][OH+:21]C.C=CCC#[N:10].[Cl-]>>[H:20][N+:10]#CCC=C.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][C:21]1(CC2C3C(C3(C)C)CC(C4(C2=O)C=C(C5C4(C1O)OC(=O)O5)C)C)[O:22][S+:23](C)[CH2-:10].CC[NH+](CC)CC>>[H:20][CH2:10][S:23]C.CC[NH+](CC)CC.CC1CC2C(C2(C)C)C3C[C:21](=[O:22])C(C45C1(C3=O)C=C(C4OC(=O)O5)C)O 10=20;20,21=21,22;22,23=23
[H:20][O:21]C(=O)C.[NH2-:10]>>[H:20][NH2:10].CC(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](C1CC2(CC(C1C)C3=C(C2=O)N(C=C3C4=CN=C(C(=N4)OC)C5=CN(C6=CC(=CC=C65)Br)S(=O)(=O)C7=CC=C(C=C7)C)COCC[Si](C)(C)C)OC)I8(C9=C(C=CC=C9)C(=O)O8)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1C2CC(CC1[O:21]I3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C)(C(=O)C5=C2C(=CN5COCC[Si](C)(C)C)C6=CN=C(C(=N6)OC)C7=CN(C8=CC(=CC=C87)Br)S(=O)(=O)C9=CC=C(C=C9)C)OC 10=20;20,21=21
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC(=CC=C4)OC5=CC=CC=C5.C(CC(=C(F)F)F)CC(=O)[O-]>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.C1=CC=C(C=C1)OC2=CC=CC(=C2)CO[P+:11](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.C(CC(=C(F)F)F)CC(=O)[O-] 10,11=10,20;20,21=21
[H:20][CH:21]([CH+:22]C1=CC=CC=C1)C(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)[CH:21]=[CH:22]C1=CC=CC=C1 10=20;20,21=21,22
C[Si:20](C)(C)F.CS(=O)(=O)[O-:10]>>C[Si-:20](C)(C)([O:10]S(=O)(=O)C)F 10=20,
CC[CH:20]=[CH:21][CH:22]=[O:23].O[O-:10]>>CC[CH:20]([CH:21]=[CH:22][O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
CC[NH2:10].CC(=O)OC(=O)CC[C:20](=[O:21])Cl>>CC[NH2+:10][C:20](CCC(=O)OC(=O)C)([O-:21])Cl 10=20;20,21=21
CO[C:20](=[CH:21][CH:22]=[CH2:23])[O-:10]>>CO[C:20](=[O:10])[CH:21]=[CH:22][CH2-:23] 10=20;22,23=23;20,21=21,22
CCC(C)[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>CCC(C)[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[H:20][NH+:21]1CCCCC1.CC1=CC=C(C=C1)C(C(=C(CC(C)(C)C)O)C#N)[N:10]2CCCCC2>>[H:20][N+:10]1(CCCCC1)C(C2=CC=C(C=C2)C)C(=C(CC(C)(C)C)O)C#N.C1CC[NH:21]CC1 10=20;20,21=21
C[N+:21](=[C:20](O)OC)C.C[OH:10]>>C[N:21](C)[C:20](O)([OH+:10]C)OC 10=20;20,21=21
[CH2-:10]C1=NC=CC=C1.[CH2:20]=[O:21]>>C1=CC(=NC=C1)[CH2:10][CH2:20][O-:21] 10=20;20,21=21
[H:20][NH+:21](CC(=O)[O-:10])CC(=O)O[Ca]O.[Cl-]>>[H:20][O:10]C(=O)C[NH:21]CC(=O)O[Ca]O.[Cl-] 10=20;20,21=21
